* IDEAL_DCDC.lib — Ideal DC-DC Converter (power-balanced behavioral model)
*
* Pins:   1=IN+  2=IN-  3=OUT+  4=OUT-
* Params: Vout [V]     — regulated output voltage (default 5)
*         Eff  [0..1]  — efficiency (default 1 = lossless)
*         Uvlo [V]     — under-voltage lockout threshold (default 4)
*         Iq   [A]     — quiescent input current (default 0)
*
* Power balance:  V_in * I_in * Eff = V_out * I_out
*            =>   I_in = I_out * V_out / (V_in * Eff) + Iq
*
* UVLO: converter disabled (no output, no input current) when Vin < Uvlo.
* Iq is always drawn when Vin > Uvlo, even with no output load.
* Supports galvanic isolation (IN- and OUT- can be different nets).

.subckt IDEAL_DCDC  IN+  IN-  OUT+  OUT-
+ params: Vout=5 Eff=1 Uvlo=4 Iq=0

* Regulated output voltage (0V when input below UVLO)
Bvout  OUT+  mid  V={if(V(IN+,IN-)>Uvlo, Vout, 0)}

* 0V ammeter to sense load current
Vsense  mid  OUT-  0

* Power-balanced input current source + quiescent bias
* Only draws current when input voltage exceeds UVLO threshold
Biin  IN+  IN-  I={if(V(IN+,IN-)>Uvlo, -I(Vsense) * Vout / (V(IN+,IN-) * Eff) + Iq, 0)}

.ends IDEAL_DCDC
